US05491148
A solution of n-butyllithium (2.2 mmol) in hexane was added in a dropwise fashion to a stirred solution of (S)-N-(1-azabicyclo[2.2.2]oct-3-yl)-3-methoxy-2-methylbenzamide (0.24 g, 0.87 mmol), from Example 1, Method B, in dry tetrahydrofuran (1.0 mL) at -70° C. The mixture was maintained at -10° C. and stirred for 1 hour. The mixture was then cooled to -70° C. and dimethylformamide (0.1 mL) added. The reaction mixture was allowed to warmto room temperature over 1.5 hours, then cooled to 0° C. and acidified with aqueous hydrochloric acid (10%). The layers were separated and the aqueous phase was washed with ethyl acetate. The aqueous layer wasthen made basic with aqueous sodium hydroxide (10N) and extracted with ethyl acetate (3×50 mL). The combined organic phase was dried over anhydrous sodium sulfate and filtered. Evaporation of solvents gave (S)-2-(1-azabicyclo[2.2.2]oct-3-yl)-5-methoxy-1 (2H)-isoquinolinone as a white solid (0.23 g, 0.804 mmol). Preparation of the hydrochloride salt from ethanol-hydrogen chloride gave (S)-2-(1-azabicyclo[2.2.2]oct-3-yl)-5-methoxyl-1(2H)-isoquinolinone hydrochloride, m.p. 275°-277° C., [α]D25 -106.7° (c=0.30, H2O).

reactant | n-butyllithium | 2.2 mmol | C(CCC)[Li]
reactant | (S)-N-(1-azabicyclo[2.2.2]oct-3-yl)-3-methoxy-2-methylbenzamide | 0.87 mmol, 0.24 g | N12C[C@H](C(CC1)CC2)NC(C2=C(C(=CC=C2)OC)C)=O | C16H22N2O2
reactant | dimethylformamide | 0.1 mL | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
product | (S)-2-(1-azabicyclo[2.2.2]oct-3-yl)-5-methoxy-1 (2H)-isoquinolinone | 0.804 mmol, 0.23 g | N12C[C@H](C(CC1)CC2)N2C(C1=CC=CC(=C1C=C2)OC)=O | C17H20N2O2
